US08193198B2
Synthesis of 3-[{2-[2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenoxy]-1-oxopropyl}amino]propionic acid methyl ester (Compound No. 1)
2-[2-Chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenoxy]propionic acid (20 g) and β-alanine methyl ester hydrochloride (8.2 g) were dissolved in dichloromethane (200 mL). After slowly adding 4-methylmorpholine (14.8 g) dropwise to the reaction mixture, stirring was performed for 1 hour. After adding (benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (18.5 g) for 30 minutes, the reaction mixture was stirred at room temperature for 1.5 hours. The reaction mixture was washed with water, dried with magnesium sulfate and concentrated. The concentrate was purified by silica gel column chromatography to give the target compound (24 g) including a trace amount of impurities, which was recrystallized twice using a mixture solvent of ethyl acetate and hexane to give the target compound (18.2 g).

reactant | 2-[2-Chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenoxy]propionic acid | 20 g | ClC1=C(OC(C(=O)O)C)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C15H11ClF4N2O5
reactant | β-alanine methyl ester hydrochloride | 8.2 g | Cl.COC(CCN)=O
reactant | 4-methylmorpholine | 14.8 g | CN1CCOCC1 | C5H11NO
reactant | (benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 18.5 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-[{2-[2-chloro-5-(3,6-dihydro-3-methyl-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl)-4-fluorophenoxy]-1-oxopropyl}amino]propionic acid methyl ester | 24 g | COC(CCNC(C(C)OC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl)=O)=O | C19H18ClF4N3O6
